US07250410B2
7,8-dimethoxy-1-ethyl-3-(2-nitrobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one, IIbh.
To a solution of 920 μl (1.84 mmol) of 2M LDA/THF in 5 ml of anhydrous THF, add dropwise at −78° C. under an inert atmosphere a solution of 300 mg (0.92 mmol) of 1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one (IIbd) in 2 ml of THF. Allow to equilibrate to room temperature for 30 minutes. Add dropwise at −30° C. a solution of 220 mg (1.01 mmol) of 2-nitrobenzyl bromide in 2 ml of THF. Stir at room temperature for 12 hours. Add 1 ml of H2O. Evaporate the THF. Purify by silica chromatography (AcOEt 1/hexane 4, 1/1, then AcOEt). Recrystallize in EtOH/cHexane. Yield: 35%. M: 158–160° C. 1H-NMR (DMSO, 300 MHz): d 0.87–0.91 (m, 3H, CH3), 3.61–3.99 (m, 10H, NCH+CHCH2+2OCH3), 4.35–4.40 (m, 1H, NCH), 6.60 (s, 1H Ar), 6.82 (s, 1 H Ar), 7.37–7.90 (m, 9H Ar). Mass: (M+H)+=460.88.

reactant | LDA THF | 1.84 mmol, 2M, 920 μl | [Li+].CC(C)[N-]C(C)C.C1CCOC1
reactant | 1-ethyl-7,8-dimethoxy-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | 0.92 mmol, 300 mg | C(C)N1C(CN=C(C2=C1C=C(C(=C2)OC)OC)C2=CC=CC=C2)=O | C19H20N2O3
reactant | 2-nitrobenzyl bromide | 1.01 mmol, 220 mg | [N+](=O)([O-])C1=C(CBr)C=CC=C1 | C7H6BrNO2
reactant | H2O | 1 ml | O | H2O
solvent | THF | 5 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 7,8-dimethoxy-1-ethyl-3-(2-nitrobenzyl)-5-phenyl-1,3-dihydro-2H-1,4-benzodiazepin-2-one | Yield: 35% | COC=1C(=CC2=C(C(=NC(C(N2CC)=O)CC2=C(C=CC=C2)[N+](=O)[O-])C2=CC=CC=C2)C1)OC | C26H25N3O5
